US04000296
A solution of 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (3.49 g.) and N-(3.4-dichlorobenzenesulphonyl)-N' ,S-dimethylisothiourea (6.20 g.) in acetonitrile (250 ml.) was heated under reflux for 48 hours. Concentration, followed by chromatographic purification on a column of alumina with sequential elution by benzene-ethylacetate (1:4) and benzene-ethanol (1:4) afforded N-(3,4-dichlorobenzenesulphonyl)-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine as a glass (1.7 g.)

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 3.49 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | N-(3.4-dichlorobenzenesulphonyl)-N' ,S-dimethylisothiourea | 6.20 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(SC)=NC | C9H10Cl2N2O2S2
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | N-(3,4-dichlorobenzenesulphonyl)-N'-methyl-N"-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]guanidine | ClC=1C=C(C=CC1Cl)S(=O)(=O)NC(=NCCSCC1=C(N=CN1)C)NC | C15H19Cl2N5O2S2
